Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
TEE/DC Cardioversion ___

 
History of Present Illness:
Ms ___ is a ___ female with a history of NICM (EF
40% in ___, permanent AF on xarelto, CKD stage IIIb, h/o 
stroke
___ no residual deficits, DMII, HTN, who presents with 4 days 
of
dyspnea, found to have elevated BNP and pulmonary congestion on
CXR, admitted for concern for heart failure exacerbation.

She was last hospitalized for heart failure exacerbation in ___
and was subsequently followed in a clinic visit by Dr. ___. 
She
reports feeling very well for the last ___ years without any
shortness of breath or leg swelling until this week.

She reports shortness of breath for the last 4 days that acutely
worsened at 5 AM this morning. She denies any fever, chest pain,
palpitations, vomiting, abdominal pain, leg pain or swelling,
dysuria or hematuria. She has been taking her medications as
prescribed without issues. She did go out to restaurants a few
times this week and may have been eating saltier foods than
usual. No infectious symptoms or other recent stressors. No
recent travel or immobilization. She reports her weight at home
is usually 192 lb though she has not checked it recently. She
reports also that she had some low blood sugars in the ___ this
week.

EMS was called and found her to be in respiratory distress,
tachypneic with VR 130s. She received 4 nitro sprays with EMS
prior to arrival and was started on bipap en route. In the ED,
she was tachycardic to 140s in AF with normal blood pressure and
received IV diltiazem and torsemide 40 mg with improvement of VR
to 100s and was subsequently taken off bipap with good O2
saturation on room air. She was admitted to the cardiology
service.

In the ED:  
Initial VS: ___  
Exam: arrived on bipap, mild faint wheezes, no acute respiratory
distress 
EKG: AF with VR ___hanges
Labs notable for: proBNP: ___, Trop-T: <0.01, Na 149, K 3.8, Cr
1.3, lactate 1.7   
Studies notable for:  CXR IMPRESSION: Cardiomegaly with central
pulmonary vascular congestion, without focal consolidation or
edema. 
Consults: respiratory therapy
Patient was given: IV Diltiazem 15 mg, Diltiazem 30 mg po,
rivaroxaban 20 mg, torsemide 40 mg 
Vitals on transfer: 97.8 109 120/73 22 94% RA 

On arrival to the cardiology service she endorses history above
and reports no chest pain or dyspnea.

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain,
ankle edema, palpitations, syncope, or presyncope.  
On further review of systems, denies fevers or chills. Denies 
any
deep venous thrombosis, pulmonary embolism, bleeding at the time
of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain. 
All
of the other review of systems were negative. 
 
Past Medical History:
AF on rivaroxaban, HTN, HLD, DM II
CAD no interventions
HFrEF, though EF 35-40% on ___ echo
primary hyperaldosteronism - diagnosed ___
thymic mass s/p thymectomy ___
hyperparathyroidism s/p three gland parathyroidectomy ___

 
Social History:
___
Family History:
Pancreas and liver cancer.
Mother: colon cancer
Father: CHF  

 
Physical ___:
Admission Physical Exam:

VS: 97.5 140 / 96 115 18 99 RA  
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP to mid neck at 45 degrees. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. irregularly irregular, tachycardic. No murmurs, rubs, or
gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

Discharge Physical Exam:
___ 0507 Temp: 97.7 PO BP: 122/84 R Sitting HR: 95 RR: 17 
O2
sat: 97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Well appearing in no apparent distress. Awake and 
alert.
HEENT: Anicteric sclerae, no cervical lymphadenopathy. No
conjunctival injection or pallor. Neck supple. EOMI.
CARDIAC: JVP 12 cm. Irregularly irregular. No m/r/g.
LUNGS: scattered bibasilar crackles. No rales or wheezes.
Breathing without accessory muscles of respiration.
ABDOMEN: Soft, non-tender and non-distended.
EXTREMITIES: Warm, well perfused.
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
___ 06:45AM BLOOD WBC-6.3 RBC-4.46 Hgb-12.2 Hct-40.5 MCV-91 
MCH-27.4 MCHC-30.1* RDW-14.7 RDWSD-48.5* Plt ___
___ 07:06AM BLOOD Neuts-69.4 ___ Monos-6.7 Eos-1.9 
Baso-0.4 Im ___ AbsNeut-4.85 AbsLymp-1.48 AbsMono-0.47 
AbsEos-0.13 AbsBaso-0.03
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-110* UreaN-21* Creat-1.0 Na-145 
K-4.1 Cl-102 HCO3-29 AnGap-14
___ 06:45AM BLOOD ALT-68* AST-18 AlkPhos-106* TotBili-0.4
___ 10:16AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:13AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:06AM BLOOD ___ 06:45AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.6
___ 06:12AM BLOOD calTIBC-278 Ferritn-57 TRF-214
___ 07:40AM BLOOD PEP-PND FreeKap-22.3* ___ Fr 
K/L-1.7*
___ 06:12AM BLOOD TSH-0.43
___ 07:12AM BLOOD ___ pO2-37* pCO2-43 pH-7.44 
calTCO2-30 Base XS-4 Intubat-NOT INTUBA
___ 07:12AM BLOOD Lactate-1.7

PERTINENT STUDIES
===================
TTE ___

CONCLUSION:
The left atrial volume index is moderately increased. The right 
atrium is moderately enlarged. There is no,evidence for an 
atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg.
There is moderate symmetric left ventricular hypertrophy with a 
normal cavity size. There is moderate global left ventricular 
hypokinesis and relative preservation of apical function. There 
is beat-to-beat variability in the left ventricular 
contractility due to the irregular rhythm. Quantitative 3D 
volumetric left ventricular ejection fraction is 36 % (normal 
54-73%). There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. Tissue Doppler 
suggests an increased left ventricular filling pressure (PCWP 
greater than 18 mmHg). There is Grade III diastolic dysfunction. 
Normal right ventricular cavity size with low normal free wall 
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) appear structurally 
normal. There is no aortic valve stenosis. There is no aortic 
regurgitation.
The mitral valve leaflets are mildly thickened with no mitral 
valve prolapse. The transmitral E-wave deceleration time is 
short (less than 140ms) c/w restrictive filling. There is 
moderate [2+] mitral regurgitation. The pulmonic valve leaflets 
are not well seen. The tricuspid valve leaflets appear 
structurally normal. There is moderate [2+] tricuspid 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is a trivial pericardial effusion.
IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
normal cavity size and moderate global systolic dysfunction c/w 
a nonischemic process in the setting of beat to beat variability 
in systolic function. Increased PCWP. Grade III/IV diastolic 
dysfunction. Restrictive
filling pattern. Normal right ventricular cavity size and 
low-normal systolic function. Moderate mitral regurgitation. 
Moderate tricuspid regurgitation. Mild pulmonary artery systolic 
hypertension.
Compared with the prior TTE ___, the findings are 
similar.

TEE CARDIOVERSION ___
CONCLUSION:
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage. The left atrial appendage 
ejection velocity is mildly depressed. No spontaneous echo 
contrast or thrombus is seen
in the body of the right atrium/right atrial appendage. The 
right atrial appendage ejection velocity is normal. There is no 
evidence for an atrial septal defect by 2D/color Doppler. 
Overall left ventricular systolic function is moderately 
depressed. There are no aortic arch atheroma with no atheroma in 
the descending aorta to 30 cm from the incisors. The aortic 
valve leaflets (3) appear structurally normal. No masses or 
vegetations are seen on the aortic valve. No abscess is seen. 
There is no aortic regurgitation. The mitral valve leaflets are 
mildly thickened with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral valve. No abscess is seen. 
There is a central jet of moderate [2+] mitral regurgitation. 
The tricuspid valve leaflets appear structurally normal. No 
mass/vegetation are seen on the tricuspid valve. No abscess is 
seen. There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is borderline elevated.
IMPRESSION: No intracardiac thrombus seen. Moderate left 
ventricular systolic dysfunction. Moderate mitral regurgitation.
 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
___ female with a history of NICM (EF 40% in ___,
AF on xarelto, CKD stage IIIb, h/o stroke ___ no
residual deficits, DMII, HTN, who presents with 4 days of
dyspnea, found to have elevated BNP and pulmonary congestion on
CXR, admitted for heart failure exacerbation with new afib 
likely a contributing factor, improved with diuresis and 
successfully TEE cardioversion into sinus rhythm on ___.

TRANSITIONAL ISSUES:
====================
[] Restart amlodipine on follow up per outpatient provider. 
Blood pressure as inpatient was managed with Carvedilol which 
may not be sufficient as monotherapy
[] Restarted torsemide 40 PO on discharge, assess for fluid 
status on follow-up
[] Repeat echo if continues to be in sinus rhythm. If she 
continues to have low EF, consider guideline directed medical 
therapy.
[] Follow up is being scheduled with her cardiologist within 2 
weeks
[] Consider discontinuation of aspirin depending on whether she 
has a indication for it
[] Insulin regimen reduced to 30u in AM and 20u in ___ of 70-30 
(in addition to liraglutide) due to relative hypoglycemia while 
inpatient, please titrate per outpatient provider
[] Switched from rivaroxaban to apixaban due to chronic kidney 
disease.

ACTIVE ISSUES:
==============
# Acute on Chronic HFrEF:
# NICM: 
Presentation is c/w subacute onset of HF exacerbation thought 
___
afib and dietary changes in the last week, with wt gain, 
elevated
BNP and JVP. She likely also had a flash pulmonary edema which
caused the acute worsening the morning of presentation, which
quickly resolved with bipap. She diuresed well with IV Lasix and 
on discharge resumed torsemide 40 daily. It is thought her 
atrial fibrillation was actually new which triggered her HF 
exacerbation. She had an echo showing newly reduced EF of 36%, 
but it is thought this may be secondary to tachycardiac mediated 
cardiomyopathy.

#?New AF with rapid rates on arrival: 
The patient has a chad2vasc of 7. Despite chart diagnosis of 
pAF, no objective evidence in Atris or Partners charts of atrial 
fibrillation (she had some EKGs with NSR and frequent PACs), so 
we treated this is new atrial fibrillation. Nonetheless came in 
on rivaroxaban which she had taken for several years and was 
switched to apixaban in the setting of CKD. She does have a 
remote history of taking Pradaxa as far back as ___. Seems she 
switched to rivaroxaban ___. It is thought her new Afib 
contributed to her heart failure. She underwent successful TEE 
cardioversion (no ___ clot) with 360 J shock on ___ 
(unsuccessful 200J shock). She was discharged on carvedilol 50 
mg twice daily and rivaroxaban was switched to apixaban due to 
concern for kidney function.

#Transaminitis
Likely ___ hepatic congestion iso CHF exacerbation, downtrended 
with diuresis.

# T2DM on insulin: she reported some low blood sugars to ___ at
home, on liraglutide and 70/30 at home 36U AM 44U ___. Decreased 
to 30 AM 20 in ___ due to low sugars here.

# CKD stage IIIb: Cr 1.3 on admission, baseline is 1.0, may be
cardiorenal, improved on discharge.

# History of CVA
# Non-obstructive CAD in ___, negative pMIBI in ___: 
- continued ASA
- continued BB as above 
- continued statin

CONTACT: Name of health care proxy: ___ 
Relationship: daughter 
Phone number: ___ 
CODE STATUS: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
2. irbesartan 300 mg oral DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Vitamin E 400 UNIT PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Atorvastatin 40 mg PO QPM 
8. Carvedilol 50 mg PO BID 
9. Rivaroxaban 20 mg PO DAILY 
10. Torsemide 40 mg PO DAILY 
11. liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous DAILY 
12. Tresiba FlexTouch U-200 (insulin degludec) 50 units 
subcutaneous DAILY 
13. 70/30 36 Units Breakfast
70/30 44 Units Dinner

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  70/30 30 Units Breakfast
70/30 20 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Carvedilol 50 mg PO BID  
7.  irbesartan 300 mg oral DAILY  
8.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
9.  liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous DAILY  
10.  Torsemide 40 mg PO DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  
12.  Vitamin E 400 UNIT PO DAILY  
13. HELD- amLODIPine 10 mg PO DAILY  This medication was held. 
Do not restart amLODIPine until Follow up

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
[] Atrial Fibrillation
[] Heart failure exacerbation

SECONDARY DIAGNOSIS
[] Transaminitis
[] T2DM
[] CKD stage IIIb

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because of shortness of 
breath and an irregular heartbeat.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, we performed some lab tests to determine the 
reason for your shortness of breath. We also performed 
measurements of the electrical activity of your heart, which 
showed that it was beating in an irregular rhythm. We gave you a 
pill that would reduce the amount of water your body held onto 
as well as medications to decrease the resistance against which 
your heart pumped. These medications also decrease your 
heartrate. We also performed some imaging to look at your heart. 
Because your heartbeat was so fast and irregular, it wasn't 
pumping blood efficiently. The medications helped with this, but 
you required an electrical shock to convert your heart back into 
regular rhythm. We are glad you are feeling better after these 
procedures.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.
- It is particularly important that you do NOT miss ___ dose of 
your apixaban.

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___